US08748435B2
(1) Step A: 1-benzyl-piperidine-4-carboxylic acid methylamide (36)
A mixture of 1-benzylpiperidine-4-carboxylic acid (1 g, 4.56 mmol), methylamine (9.12 ml of a 2N solution in THF, 18.2 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.75 g, 9.1 mmol) and 1-hydroxybenzotriazole (0.7 g, 4.56 mmol) in 10 ml DMF was stirred at rt for 3 h. The reaction mixture was poured on saturated aqueous NaHCO3 and extracted with ethyl acetate. The organic layer was washed with NaHCO3 solution and brine, dried (Na2 SO4) and evaporated. Drying in vacuo gave a colorless solid which was used in the next step without further purification.

reactant | 1-benzylpiperidine-4-carboxylic acid | 4.56 mmol, 1 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C13H17NO2
reactant | methylamine | CN | CH5N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 9.1 mmol, 1.75 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 4.56 mmol, 0.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-piperidine-4-carboxylic acid methylamide | CNC(=O)C1CCN(CC1)CC1=CC=CC=C1 | C14H20N2O
